US04810713
1-[4-[3-[4-[(4-Fluorophenyl)hydroxyphenylmethyl]-1-piperidinyl]propoxy]-3-methoxyphenyl]ethanone
A mixture of 6.5 g (0.023 mole) of α-(p-fluorophenyl)-α-phenyl-4-piperidinemethanol, 5.5 g (0.023 mole) of 3-(p-acetyl-o-methoxyphenoxy)propyl chloride and 1.92 g (0.023 mole) of sodium bicarbonate in 80 ml of dimethylformamide was heated at 100°-110° C. for 2 hrs. The reaction mixture was cooled and filtered and the dimethylformamide was removed at reduced pressure. The residual oil was dissolved in chloroform and filtered. The chloroform was removed at reduced pressure. The solid residue which remained weighed 8.6 g (77%) and was recrystallized from ethanol to give 3.1 g of material melting at 147°-148° C. A sample was dried over refluxing toluene and submitted for analysis. (See Ex. 14, U.S. Pat. No. 3,956,296).

reactant | α-(p-fluorophenyl)-α-phenyl-4-piperidinemethanol | 0.023 mole, 6.5 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H20FNO
reactant | 3-(p-acetyl-o-methoxyphenoxy)propyl chloride | 0.023 mole, 5.5 g | C(C)(=O)C1=CC(=C(OCCCCl)C=C1)OC | C12H15ClO3
reactant | sodium bicarbonate | 0.023 mole, 1.92 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 1-[4-[3-[4-[(4-Fluorophenyl)hydroxyphenylmethyl]-1-piperidinyl]propoxy]-3-methoxyphenyl]ethanone | 3.1 g | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=C(C=C(C=C1)C(C)=O)OC)(C1=CC=CC=C1)O | C30H34FNO4
